US06093852
An essential point for carrying out the process according to the invention is that the 1,3-dibenzyloxy-4,6-dinitrobenzene is reacted in a two-phase mixture in dilute aqueous hydrochloric acid and an organic solvent, which is immiscible or miscible only to a limited extent with dilute aqueous hydrochloric acid, at normal or elevated pressure and normal or elevated temperature by catalytic hydrogenation, preferably catalytic pump hydrogenation, to give 4,6-diamino-resorcinol dihydrochloride. In a preferred embodiment, a solution of the suspension of 1,3-dibenzyloxy-4,6-dinitrobenzene in an organic solvent is pumped under hydrogenation conditions into a hydrogenation autoclave, into which a suspension of the noble metal catalyst in dilute aqueous hydrochloric acid or an aqueous solution of 4,6-diamino-resorcinol dihydrochloride containing hydrochloric acid has been introduced beforehand under H2 pressure.

reactant | 1,3-dibenzyloxy-4,6-dinitrobenzene | C(C1=CC=CC=C1)OC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])OCC1=CC=CC=C1 | C20H16N2O6
reactant | hydrochloric acid | Cl | ClH
product | 4,6-diamino-resorcinol dihydrochloride | Cl.Cl.NC1=C(C=C(O)C(=C1)N)O | InChI=1S/C6H8N2O2.2ClH/c7-3-1-4(8)6(10)2-5(3)9;;/h1-2,9-10H,7-8H2;2*1H
